US08278316B2
D. 6-((4-Chlorophenylthio)methyl)-3-(4-(2-cyclopropyl-2-hydroxyethoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one
N-arylation of 6-((4-chlorophenylthio)methyl)pyrimidin-4(3H)-one Part B of Procedure 10 with 2-(4-bromo-2-methoxyphenoxy)-1-cyclopropylethanol Part C to generate G-2 was achieved using the procedure described in Part C of Procedure 10. LC/MS 459 (M+H)+, tR 0.97 min (method 5). 1H NMR (400 MHz, Chloroform-D) δ ppm 8.14 (1H, s), 7.26-7.40 (4H, m), 7.03 (1H, d), 6.80-6.91 (2H, m), 6.45 (1H, s), 4.20 (1H, dd, J=9.54, 2.76 Hz), 4.03 (1H, t, J=8.91 Hz), 3.96 (2H, s), 3.87 (3H, s), 3.36 (1H, td, J=8.34, 2.64 Hz), 0.91-1.06 (1H, m), 0.51-0.67 (2H, m), 0.40-0.50 (1H, m), 0.26-0.37 (1H, m).

reactant | 6-((4-chlorophenylthio)methyl)pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)SCC1=CC(NC=N1)=O | C11H9ClN2OS
reactant | 2-(4-bromo-2-methoxyphenoxy)-1-cyclopropylethanol | BrC1=CC(=C(OCC(O)C2CC2)C=C1)OC | C12H15BrO3
product | 6-((4-Chlorophenylthio)methyl)-3-(4-(2-cyclopropyl-2-hydroxyethoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)SCC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(O)C1CC1)OC)=O | C23H23ClN2O4S
